US08912209B2
Potassium ethylxanthate (58.0 g, 364 mmol) was suspended in 200 mL of dry acetone at room temperature. tert-Butyl chloroacetate (50 g, 332 mmol) was added dropwise with stirring. After 18 hrs potassium chloride was removed by fitration, and the solvent was evaporated. The residue was taken up into ether, washed with 5% NaHCO3, water, and brine, dried over MgSO4, filtered, and evaporated to leave 80 g of O-ethyl S-(tert-butoxycarbonyl)methyl dithiocarbonate as a thick oil. This oil was stirred with ethanolamine (323 mmol) for 2 hrs at room temperature. The reaction mixture was taken up into ethyl acetate, washed with 1.2N HCl, water, and brine, dried over MgSO4, filtered, and evaporated. The residue was vacuum dis-tilled to give 30 g of mercapto-acetic acid tert-butyl ester as a clear oil.

reactant | Potassium ethylxanthate | 364 mmol, 58.0 g | C(C)OC(=S)[S-].[K+]
reactant | tert-Butyl chloroacetate | 332 mmol, 50 g | ClCC(=O)OC(C)(C)C | C6H11ClO2
solvent | acetone | 200 mL | CC(=O)C | C3H6O
product | O-ethyl S-(tert-butoxycarbonyl)methyl dithiocarbonate | 80 g | C(SCC(=O)OC(C)(C)C)(OCC)=S | C9H16O3S2
